US07812183B2
4-(5-Chloro-benzothiazol-2-ylamino)-2,2-dimethyl-3,4-dihydro-2H-pyrano[3,2-c]pyridin-3-ol (Compound #106)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-6-aza-cyclopropa[a]naphthalene and 5-chloro-benzothiazol-2-ylamine as starting materials, the title compound was prepared as a pale yellow solid.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-6-aza-cyclopropa[a]naphthalene | CC1(C2C(C3=CN=CC=C3O1)O2)C | C10H11NO2
reactant | 5-chloro-benzothiazol-2-ylamine | ClC=1C=CC2=C(N=C(S2)N)C1 | C7H5ClN2S
product | 4-(5-Chloro-benzothiazol-2-ylamino)-2,2-dimethyl-3,4-dihydro-2H-pyrano[3,2-c]pyridin-3-ol | ClC=1C=CC2=C(N=C(S2)NC2C(C(OC3=C2C=NC=C3)(C)C)O)C1 | C17H16ClN3O2S
